datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC12C3(C)C4(C)C5(C)C1(C)[Os-2:11]2345(C#[O+])(C#[O+])[H:10].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>CC12C3(C)C4(C)C5(C)C1(C)[Os-:11]2345(C#[O+])C#[O+].C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23"
"C1COC2(CC[C:20](=[O:21])CC2)O1.[H:10][CH:11]1[C:12]2=[C:13]([O:14][C:73]3=[C:72]1[CH:77]=[CH:76][CH:75]=[CH:74]3)[CH:86]=[CH:85][CH:84]=[CH:83]2>>C1COC2(CC[C:20]([H:10])([O-:21])CC2)O1.[CH:11]1=[C:12]2[C:13](=[O+:14][C:73]3=[C:72]1[CH:77]=[CH:76][CH:75]=[CH:74]3)[CH:86]=[CH:85][CH:84]=[CH:83]2 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15.C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>C[CH:20](C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)[H:10].C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21"
"C[Si](C)(C)[O:64][C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>C[Si](C)(C)[O:64][C:13]1=[O+:14][CH:10]([CH:20]2N3N=N[N:35]=[C:34]3[C:33]([N+](=O)[O-])=[CH:32][C:21]2=[N+:22]([O-])[O-:23])[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC(C)(C)C[O:62]2)S1>>CC1(C)C[O+:12]=[B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)[O:62]C1.CC1=CC=[C:10]([C:20]([N-:21]C2=CC=CC=C2)=[N:31]C2=CC=CC=C2)S1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](C2=CC=C(C)C=C2)[CH:63]=[C:62]1C(N)=O>>C1=CC=C([N-:21][C:20]([H:10])=[N:31]C2=CC=CC=C2)C=C1.[H][C:11]1=[CH:12][CH:13]=[N+:14](C2=CC=C(C)C=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C1C[N:10]=[C:11]2[N:12](C1)CC[S:62]2.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2CCC[N+:12]3=[C:11]2[S:62]CC3)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/[CH:62]=[CH:63]/C.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1>>C[CH:10]([CH+:11]/[CH:62]=[CH:63]/C)[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20"
CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Si:71](C)(C)[CH-:10][N+:61]#[N:62]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([N+:61]#[N:62])[Si:71](C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:11]([C:10](C)(C3=CC=CC=C3)[CH:20]([C:31]3=[CH:36][C:35]4=[C:34]5N(CCC[C:33]5=[CH:32]3)CCC4)[C:41]3=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]3)=[O:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1 10,11=10,20;12=11,12"
"C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.CC[Si:63](CC)(CC)[CH2:62][CH:11]=[CH2:10]>>CC[Si:63](CC)(CC)[CH2:62][CH+:11][CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1 10,11=10,20"
"CC(C)(C)[C:62]1=[C:61]([O-:10])[C:72](C(C)(C)C)=[CH:73][CH:64]=[CH:63]1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>CC(C)(C)[C:62]1=[C:61]([O:10][CH:20]2[C:21](=[N+:22]([O-])[O-:23])[C:32]3=NO[N+]([O-])=[C:33]3[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)[C:72](C(C)(C)C)=[CH:73][CH:64]=[CH:63]1 10=20;20,21=21,22;22,23=23"
"CC12C3(C)C4(C)C5(C)C1(C)[Os-2:11]2345(C#[O+])(C#[O+])[H:10].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CC12C3(C)C4(C)C5(C)C1(C)[Os-:11]2345(C#[O+])C#[O+].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1.CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23]>>CC[O:33][C:22](=[C:21](C)[CH2:20][N:10]1[C@@H](C(C)C)CC[N+:12]2=[C:11]1[S:62]C1=C2C=CC=C1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CCCCC[C:11](=[CH2:10])CCCCC1.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>F[S:32]([CH-:21][CH:20](C1=CC=CC=C1)[CH2:10][C+:11]1CCCCCCCCCCC1)(=[O:33])=[O:34] 10,11=10,20;20,21=21"
